US04499296
To 1 part by volume of magnesium in 25 parts by volume of tetrahydrofuran under argon is added a small amount of propargyl bromide and mercuric chloride to initiate reaction. Once the reaction is started 6.3 parts of propargyl bromide and 36 parts of 4-cyclopropyl-2-butanone in 50 parts by volume of tetrahydrofuran is added dropwise so as to maintain reflux. Upon completion of the reaction, the reaction mixture is cooled to room temperature and poured into a mixture of ether and 1N HCl. The aqueous layer is extracted twice with ether. The ether extracts are combined and washed 3 times with water and one time with saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and evaporated to provide a residual oil. The residual oil is distilled under high vacuum to provide 4-methyl-4-hydroxy-6-cyclopropyl-hex-1-yne.

reactant | magnesium | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 4-cyclopropyl-2-butanone | C1(CC1)CCC(C)=O | C7H12O
reactant | HCl | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methyl-4-hydroxy-6-cyclopropyl-hex-1-yne | CC(CC#C)(CCC1CC1)O | C10H16O
